US05112848
N-hydroxy-N-(1-(5-methylfur-2-yl)ethyl)-N'-phenyl urea
To a solution of phenyl isocyanate (0.87 mL, 8.0 mmol) in 10 mL THF was added N-(1-(5-methyl-fur-2-yl)ethyl) hydroxylamine (0.50 g, 4.0 mmol) in 3 mL THF. The reaction was stirred 1 h at room temperature and was quenched with saturated ammonium chloride solution (25 mL). The aqueous layer was extracted with ethyl acetate (3×10 mL) and the organic layer was washed with brine (1×20 mL). The solution was dried with MgSO4, filtered and evaporated. Chromatography (silica gel, 30% ether/hexanes) gave 0.32 g of desired product; m.p.=109°-110° C.; 1H NMR (300 MHz, DMSO-d6) 9.43 (bs, 1H), 8.97 (bs, 1H), 7.62 (dd, J=1.50, 8.71 Hz, 2H), 7.25 (m, 2H), 6.96 (m, 1H), 6.15 (d, J=3.00 Hz, 1H), 5.38 (q, J=6.9, 17.4 Hz, 1H), 2.19 (s, 3H), 1.39 (d, J=6.30 Hz, 3H); MS (M+H)+ =261; Analysis calc'd for C14H16N2O3 : C, 64.59; H, 6.20; N, 10.77. Found: C, 64.00; H, 6.12; N, 10.60.

reactant | phenyl isocyanate | 8.0 mmol, 0.87 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N-(1-(5-methyl-fur-2-yl)ethyl) hydroxylamine | 4.0 mmol, 0.50 g | CC1=CC=C(O1)C(C)NO | C7H11NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-hydroxy-N-(1-(5-methylfur-2-yl)ethyl)-N'-phenyl urea | 0.32 g | ON(C(=O)NC1=CC=CC=C1)C(C)C=1OC(=CC1)C | C14H16N2O3
